US06818633B2
2-Amino-4-chloro-6-hydroxypyrimidine monohydrate (5.0 g) was stirred with 30% dimethylamine in ethanol (180 mL) at 100° C. in an autoclave for 16 h. The crystalline product was filtered, washed with water, acetone, ether and dried in vacuo to afford 2-amino-4-dimethylamino-6-hydroxypyrimidine, not melting under 300° C. Yield, 4.3 g (81%). For C6H10N4O (154.17) calculated 46.34% C, 6.54% H, 36.34% N; found 46.38% C, 6.65% H, 36.68% N. 1H-NMR (CD3SOCD3): 2.89 s, 6H (N—CH3); 4.51 s, 1H (H-5); 6.18 brs, 2H (NH2); 9.75 brs, 1H (OH).

reactant | 2-Amino-4-chloro-6-hydroxypyrimidine monohydrate | 5.0 g | O.NC1=NC(=CC(=N1)Cl)O
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 180 mL | C(C)O | C2H6O
product | 2-amino-4-dimethylamino-6-hydroxypyrimidine | NC1=NC(=CC(=N1)N(C)C)O | C6H10N4O
